US04556672
6-Fluoro-5-methyl-2-oxindole-1-carboxamide
Following the procedure of Example 17, the title compound was prepared from 6-fluoro-5-methyl-2-oxindole (1.0 g, 6.0 mmole) and chlorosulfonyl isocyanate (1.03 g, 7.3 mmole) in toluene (30 ml). Water (5 ml) was used for the hydrolysis step. Yield=0.58 g, 46%, m.p. 200°-203° C.

reactant | 6-fluoro-5-methyl-2-oxindole | 6.0 mmole, 1.0 g | FC1=C(C=C2CC(NC2=C1)=O)C | C9H8FNO
reactant | chlorosulfonyl isocyanate | 7.3 mmole, 1.03 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Water | 5 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Fluoro-5-methyl-2-oxindole-1-carboxamide | FC1=C(C=C2CC(N(C2=C1)C(=O)N)=O)C | C10H9FN2O2
